US07713993B2
Synthesis of 1-amino-3-(3,4-difluorophenyl)piperidin-2-one
Sodium hydride (containing mineral oil at 40%, 0.48 g) was added to a solution of methyl (3,4-difluorophenyl)acetate (CAS #210530-71-5, 2.04 g) in DMF (30 mL) at 0° C., and the reaction solution was stirred at room temperature for 10 minutes. 1-chloro-3-iodopropane (1.3 mL) was added to the reaction solution at 0° C., and the reaction solution was stirred at room temperature for two hours. A saturated ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The resulting extract washed with a saturated sodium chloride solution. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. Hydrazine monohydrate (5.5 g) was added to a solution of the resulting residue in ethanol (50 mL) at room temperature, and the reaction solution was stirred at 80° C. for seven hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. A saturated sodium bicarbonate solution was added to the residue, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system) to obtain 1.42 g of the title compound. The property values of the compound are as follows.

reactant | Sodium hydride | 0.48 g | [H-].[Na+]
reactant | methyl (3,4-difluorophenyl)acetate | 2.04 g | FC=1C=C(C=CC1F)CC(=O)OC | C9H8F2O2
reactant | 1-chloro-3-iodopropane | 1.3 mL | ClCCCI | C3H6ClI
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-amino-3-(3,4-difluorophenyl)piperidin-2-one | 1.42 g | NN1C(C(CCC1)C1=CC(=C(C=C1)F)F)=O | C11H12F2N2O
